US07214665B2
Preparation 24: 4-Cyanomethyl-piperazine-1-carboxylic acid ethyl ester (JR3287)
To a solution of 3 g (19.0 mmol) of ethyl N-piperazinecarboxylate in 25 mL of CH3CN was added 1.57 g (1.32 mL 20.1 mmol) of 2-chloroacetonitrile and 15.6 g (95 mmol) K2CO3.1½H2O. The suspension was stirred at room temperature for 16 hours. The reaction was analyzed using TLC (35% Ethyl acetate/Hexanes, product r.f. 0.38 vs. sm r.f. of 0.02). The analysis indicated the reaction was complete. The golden yellow solution was evaporated to dryness. The residue was extracted with CH2C12/H2O, dried with MgSO4, and concentrated.

reactant | ethyl N-piperazinecarboxylate | 19.0 mmol, 3 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | 2-chloroacetonitrile | 20.1 mmol, 1.32 mL, 1.57 g | ClCC#N | C2H2ClN
reactant | K2CO3 | 95 mmol, 15.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 4-Cyanomethyl-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)CC#N | C9H15N3O2
